US04937246
To dimethyl carbonate (87 g) is added sodium methoxide (10.5 g), to the mixture is added 7,8-dimethoxy-3,4-dihydro-1-benzothiepin-5(2H)-one(11.0 g) obtained in Reference Example 7. The mixture is heated for two hours under reflux. The reaction mixture is poured into ice-water and acidified (pH 3) with 2N hydrochloric acid, followed by extraction with ethyl acetate. The organic layer is washed with a saturated aqueous saline solution, dried, and concentrated under reduced pressure. The residue is recrystallized from hexane - methylene chloride to afford methyl 7,8-dimethoxy5-oxo-2,3,4,5-tetrahydro-1-benzothiepin-4-carboxylate as colorless needles (10.8 g), m.p. 132°-133° C.

reactant | dimethyl carbonate | 87 g | C(OC)(OC)=O | C3H6O3
reactant | sodium methoxide | 10.5 g | C[O-].[Na+]
reactant | 7,8-dimethoxy-3,4-dihydro-1-benzothiepin-5(2H)-one | 11.0 g | COC=1C(=CC2=C(C(CCCS2)=O)C1)OC | C12H14O3S
reactant | hydrochloric acid | 2N | Cl | ClH
product | methyl 7,8-dimethoxy5-oxo-2,3,4,5-tetrahydro-1-benzothiepin-4-carboxylate | 10.8 g | COC=1C(=CC2=C(C(C(CCS2)C(=O)OC)=O)C1)OC | C14H16O5S
